US07432378B2
4,5-Dimethyl-2-{3-methyl-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-1H-benzoimidazole
This compound was prepared by the method described in Example 1, using 3-methyl-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzaldehyde (180 mg, 0.65 mmol, 1.0 equiv), 3,4-dimethyl-benzene-1,2-diamine (89 mg, 0.65 mmol, 1.0 equiv), and Na2S2O5 (161 mg, 0.85 mmol, 1.3 equiv) in General Procedure 3. Purification by Method 2 afforded 192 mg (75%) of the title compound. MS (electrospray): mass calculated for C24H32N4O, 392.26; m/z found, 393.5 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.95-7.85 (m, 2H), 7.35-7.23 (m, 1H), 7.08-7.00 (m, 2H), 4.12 (t, J=6.0 Hz, 2H), 2.64-2.37 (m, 16H), 2.29 (s, 6H), 2.10-2.00 (m, 2H).

reactant | 3-methyl-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzaldehyde | 0.65 mmol, 180 mg, 1.0 equiv | CC=1C=C(C=O)C=CC1OCCCN1CCN(CC1)C | C16H24N2O2
reactant | 3,4-dimethyl-benzene-1,2-diamine | 0.65 mmol, 89 mg, 1.0 equiv | CC1=C(C(=CC=C1C)N)N | C8H12N2
product | 4,5-Dimethyl-2-{3-methyl-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-1H-benzoimidazole | 192 mg, 75% | CC1=C(C=CC=2NC(=NC21)C2=CC(=C(C=C2)OCCCN2CCN(CC2)C)C)C | C24H32N4O
